US05102881
Step 1 Preparation of 4-((2-methyl-2-propyl)diphenylsilyloxy)benzaldehyde
At 0° C., tert-butyldiphenylchlorosilane (50 g) was added slowly to a solution of p-hydroxybenzaldehyde (22 g) and Et3N (42 mL) in 1,2-dichloroethane (400 mL) and the mixture was stirred at room temperature a few hours. After the usual work up, the product was purified by flash chromatography on silica using EtOAc:hexane 1:10 and was used as such for Step 2.

reactant | tert-butyldiphenylchlorosilane | 50 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | p-hydroxybenzaldehyde | 22 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Et3N | 42 mL | CCN(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 400 mL | ClCCCl | C2H4Cl2
product | 4-((2-methyl-2-propyl)diphenylsilyloxy)benzaldehyde | CC(C)(C)[Si](OC1=CC=C(C=O)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H24O2Si
